US05177075
5-Methoxy-1(2H)-isoquinolinone
To 3.0 g (18.6 mmol) of 1,5-dihydroxyisoquinoline in 80 ml methanol and 20 ml of water was added 0.78 g of 50% sodium hydroxide (39 mmol) and 2 ml of dimethyl sulfate. The mixture was heated under reflux for two hours. An additional 4.0 ml of dimethyl sulfate and 10 ml of 50% sodium hydroxide was then added and refluxing continued for an additional hour. The mixture was diluted with 200 ml of water and concentrated to half the original volume. The resulting solid was collected and washed with water. Recrystallization from ethanol gave 2.1 g (64%) of the desired product; mp 215°-217°.

reactant | 1,5-dihydroxyisoquinoline | 18.6 mmol, 3.0 g | OC1=NC=CC2=C(C=CC=C12)O | C9H7NO2
reactant | sodium hydroxide | 39 mmol, 0.78 g | [OH-].[Na+]
reactant | dimethyl sulfate | 2 ml | S(=O)(=O)(OC)OC | C2H6O4S
reactant | dimethyl sulfate | 4.0 ml | S(=O)(=O)(OC)OC | C2H6O4S
reactant | sodium hydroxide | 10 ml | [OH-].[Na+]
solvent | methanol | 80 ml | CO | CH4O
solvent | water | 20 ml | O | H2O
solvent | water | 200 ml | O | H2O
product | 5-Methoxy-1(2H)-isoquinolinone | 2.1 g, 64% | COC1=C2C=CNC(C2=CC=C1)=O | C10H9NO2
